US05677302
Preparation of bromo(2-pyridyl)acetonitrile
To a solution of (2-pyridyl)acetonitrile (12.0 g, 0.10 mole) in 150 ml of carbon tetrachloride, was added 18.1 g of N-bromosuccinimide (0.10 mole) at room temperature. The mixture was refluxed for 1.5 h. The resulting precipitate was removed by filtration and the solvent was removed under reduced pressure to give the crude product, which was recrystallized from hexane to yield 18.6 g (94%) of the title compound as red crystals: mp 62°-64° C.; 1H NMR (DMSO-d6) δ8.67 (d, 1H), 7.97 (t, 1H), 7.70 (d, 1H), 7.51 (td, 1H), 5.60(s,1H) ppm; IR (KBr) ν3064, 2972, 1712, 1587, 1470, 1439, 1051, 993 cm-1 ; MS m/z 196, 198 (M+), 117 (M- -Br); HRMS calcd for C7H5BrN2 195.9630, found 195.9645.

reactant | (2-pyridyl)acetonitrile | 0.10 mole, 12.0 g | N1=C(C=CC=C1)CC#N | C7H6N2
reactant | N-bromosuccinimide | 0.10 mole, 18.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | bromo(2-pyridyl)acetonitrile | 18.6 g, 94% | BrC(C#N)C1=NC=CC=C1 | C7H5BrN2
